US06919331B2
A solution of acetic acid 4-{5-(tert-butoxycarbonylamino-methyl)-2-[2,4-dioxo-3-(2,2,2-trifluoro-ethyl)-3,4-dihydro-2H-quinazolin-1-ylmethyl]-benzoimidazol-1-yl}-butyl ester (98 mg, 0.16 mmol) and TFA (244 μL, 3.17 mmol) in dichloromethane (3 mL) was stirred for 4 hrs at room temperature. The volatiles were removed in vacuo and the residue dissolved in dichloromethane. A solution of 4N HCl in dioxane (0.4 mL, 10 equiv.) was added, followed by concentration. The residue was triturated from diethyl ether and filtered to give acetic acid 4-{5-aminomethyl-2-[2,4-dioxo-3-(2,2,2-trifluoro-ethyl)-3,4-dihydro-2H-quinazolin-1-ylmethyl]-benzoimidazol-1-yl }-butyl ester; HCl salt (53 mg, 60%) as a white solid:

reactant | acetic acid 4-{5-(tert-butoxycarbonylamino-methyl)-2-[2,4-dioxo-3-(2,2,2-trifluoro-ethyl)-3,4-dihydro-2H-quinazolin-1-ylmethyl]-benzoimidazol-1-yl}-butyl ester | 0.16 mmol, 98 mg | C(C)(C)(C)OC(=O)NCC1=CC2=C(N(C(=N2)CN2C(N(C(C3=CC=CC=C23)=O)CC(F)(F)F)=O)CCCCOC(C)=O)C=C1 | C30H34F3N5O6
reactant | TFA | 3.17 mmol, 244 μL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | HCl | 4N | Cl | ClH
reactant | dioxane | 0.4 mL, 10 equiv. | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | acetic acid 4-{5-aminomethyl-2-[2,4-dioxo-3-(2,2,2-trifluoro-ethyl)-3,4-dihydro-2H-quinazolin-1-ylmethyl]-benzoimidazol-1-yl }-butyl ester | NCC1=CC2=C(N(C(=N2)CN2C(N(C(C3=CC=CC=C23)=O)CC(F)(F)F)=O)CCCCOC(C)=O)C=C1 | C25H26F3N5O4
